US07790756B2
1-(2-fluoro-5-(6-nitropyridin-3-yloxy)phenyl)-3-(3-isopropyl-1-(quinolin-6-yl)-1H-pyrazol-5-yl)urea (0.129 g, 0.245 mmol) was dissolved in MeOH (2.0 mL), to which NH4Cl (0.131 g, 2.45 mmol) and zinc power (0.160 g, 2.45 mmol) were added and the reaction mixture was stirred at RT for 4 h. The reaction mixture was filtered through Celite and washed with methanol (30 mL) and EtOAc (50 mL). The filtrate was concentrated in vacuum, partitioned between EtOAc (30 mL) and water (20 mL). The separated organic phase was washed with brine (10 mL), dried (MgSO4) and concentrated to afford 1-(5-(6-aminopyridin-3-yloxy)-2-fluorophenyl)-3-(3-isopropyl-1-(quinolin-6-yl)-1H-pyrazol-5-yl)urea (0.0495 g, 41% yield) as a white foam. MS (ESI) m/z: 498.2 (M+H+).

reactant | 1-(2-fluoro-5-(6-nitropyridin-3-yloxy)phenyl)-3-(3-isopropyl-1-(quinolin-6-yl)-1H-pyrazol-5-yl)urea | 0.245 mmol, 0.129 g | FC1=C(C=C(C=C1)OC=1C=NC(=CC1)[N+](=O)[O-])NC(=O)NC1=CC(=NN1C=1C=C2C=CC=NC2=CC1)C(C)C | C27H22FN7O4
reactant | NH4Cl | 2.45 mmol, 0.131 g | [NH4+].[Cl-]
solvent | MeOH | 2.0 mL | CO | CH4O
catalyst | zinc | [Zn] | Zn
product | 1-(5-(6-aminopyridin-3-yloxy)-2-fluorophenyl)-3-(3-isopropyl-1-(quinolin-6-yl)-1H-pyrazol-5-yl)urea | 0.0495 g, 41% yield | NC1=CC=C(C=N1)OC=1C=CC(=C(C1)NC(=O)NC1=CC(=NN1C=1C=C2C=CC=NC2=CC1)C(C)C)F | C27H24FN7O2
